US05650533
A solution of methyl 2-chloro-6-fluorobenzoate (40.0 g) in ether was added to a solution of methyl magnesium iodide in ether (prepared from methyl iodide (120.0 g) and magnesium turnings (20.6 g) in ether). The resulting solution was stirred and heated at reflux for 5 hours, poured onto a mixture of ice and concentrated sulphuric acid and the layers separated. The organic layer was washed with water, saturated aqueous sodium bisulphite, water, dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness to give 2-(2-chloro-6-fluorophenyl)-propan-2-ol (36.8 g) as an orange oil, NMR (CDCl3) 1.8(d,6H), 3.5-3.7(bs, 1H), 6.9-7.05(m,1H), 7.1-7.25(m,2H).

reactant | methyl 2-chloro-6-fluorobenzoate | 40.0 g | ClC1=C(C(=O)OC)C(=CC=C1)F | C8H6ClFO2
reactant | methyl magnesium iodide | C[Mg]I
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ether | CCOCC | C4H10O
reactant | ether | 120.0 g | CCOCC | C4H10O
product | 2-(2-chloro-6-fluorophenyl)-propan-2-ol | 36.8 g | ClC1=C(C(=CC=C1)F)C(C)(C)O | C9H10ClFO
